US05041460
N-Chlorosuccinimide (0.313 g) was added in one portion to a stirred solution of methyl 4-[5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate (0.5 g) in dichloromethane (25 ml). After 30 minutes, the solvent was evaporated, and the product isolated by flash chromatography, eluting with 3:7 ethyl acetate:toluene, to give methyl 4-[2,6-dichloro-5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate (60%) as a white solid; mp 175°-176° C.; NMR (300 MHz, DMSO-d6): 1.00 (d, 3H, CH3), 2.61 (s, 6H), 2.82 (d, 2H), 3.72 (s, 3H, CH3), 3.83 (s, 3H, OCH3), 3.85-3.96 (m, 4H), 4.00 (s, 2H), 5.91 (d, 1H, NH), 6.99 (d, 1H), 7.33 (s, 1H), 7.38-7.50 (m, 2H), 7.61 (s, 1H).

reactant | N-Chlorosuccinimide | 0.313 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methyl 4-[5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 0.5 g | CN(C(NC(CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC)C)=O)C | C25H31N3O4
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl 4-[2,6-dichloro-5-[2-(N',N'-dimethylureido)propyl]-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 60% | ClC=1N(C2=CC(=C(C=C2C1CC1=C(C=C(C(=O)OC)C=C1)OC)CC(C)NC(=O)N(C)C)Cl)C | C25H29Cl2N3O4
